US04416826
Tert-butyl-ρ-butyrylperbenzoate is prepared by the above-discussed procedure for the preparation of t-butyl-4-benzoylperbenzoate, except that the acid employed is ρ-butyryl benzoic acid and is purified by chromatography over neutral aluminum oxide with dichloromethane-ether (5:1) as eluent. The perester obtained is a yellow oil which solidifies after several months in the refrigerator.

reactant | t-butyl-4-benzoylperbenzoate | C(C)(C)(C)OOC(C1=CC=C(C=C1)C(C1=CC=CC=C1)=O)=O | C18H18O4
reactant | ρ-butyryl benzoic acid | C(CCC)(=O)C1=CC=C(C(=O)O)C=C1 | C11H12O3
product | Tert-butyl-ρ-butyrylperbenzoate | C(C)(C)(C)OOC(C1=CC=C(C=C1)C(CCC)=O)=O | C15H20O4
